US05438058
Inner salt of 2-methyl-4-amino-6-dimethylamino-3-sulphoxypyrimidinium hydroxide.
133 ml (0.002 mol) of chlorosulphonic acid is added, with stirring, to a solution of 0.72 ml (0.0042 mol) of N,N-diisopropylethylamine in 12 ml of a 1/1 chloroform/dimethylformamide mixture, cooled in ice. After a waiting time of 30 minutes, 0. 168 g (0.001 mol) of 2-methyl-4-amino-6-dimethylaminopyrimidine 3-oxide prepared according to Example 2 is added and the mixture is kept at between 5° and 10° C. for 7 hours under nitrogen. The solvent is evaporated. The residue, taken up in a little water, allows a white product to crystallise, which is filtered off. After recrystallisation from a DMF/water mixture, 0.11 g of pure inner salt, which decomposes at 226° C., is obtained. The yield is 44.3%. Elementary analysis for C7H12N4O4S; molecular weight=248.

reactant | chlorosulphonic acid | 0.002 mol, 133 ml | ClS(=O)(=O)O | ClHO3S
reactant | N,N-diisopropylethylamine | 0.0042 mol, 0.72 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-methyl-4-amino-6-dimethylaminopyrimidine 3-oxide | 0.001 mol, 168 g | CC1=NC(=CC(=[N+]1[O-])N)N(C)C | C7H12N4O
solvent | chloroform dimethylformamide | C(Cl)(Cl)Cl.CN(C=O)C
product | 2-methyl-4-amino-6-dimethylamino-3-sulphoxypyrimidinium hydroxide | yield is 44.3% | [OH-].CC1[NH+]=C(C=C(N1OS(=O)(=O)O)N)N(C)C | InChI=1S/C7H14N4O4S.H2O/c1-5-9-7(10(2)3)4-6(8)11(5)15-16(12,13)14;/h4-5H,8H2,1-3H3,(H,12,13,14);1H2
